US09282743B2
Step 6: Preparation of 2,2-Dimethyl-propionic acid 3-methoxy-9-oxo-8-(2,4,6-trimethyl-phenyl)-2,3,4,5-tetrahydro-1H,9H-pyrazolo[1,2-a][1,2,5]triazepin-7-yl ester (title compound P1.1)
To a solution of 3-methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (162 mg, 0.51 mmol), triethylamine (0.107 ml, 78 mg, 0.77 mmol) and a catalytic amount of 4-dimethylaminopyridine in tetrahydrofuran (4 ml) at 0° C. was added 2,2-dimethyl-propionyl chloride (pivaloyl chloride, 0.082 ml, 80 mg, 0.67 mmol) dropwise. The suspension was stirred at 0° C. for 45 minutes, the solvent evaporated and the residue diluted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate and concentrated. Yield: 160 mg of 2,2-dimethyl-propionic acid 3-methoxy-9-oxo-8-(2,4,6-trimethyl-phenyl)-2,3,4,5-tetrahydro-1H,9H-pyrazolo[1,2-a][1,2,5]triazepin-7-yl ester (title compound P1.1) as an off-white solid, mp 147-148° C.

reactant | 3-methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | 0.51 mmol, 162 mg | CON1CCN2N(CC1)C(C(C2=O)C2=C(C=C(C=C2C)C)C)=O | C17H23N3O3
reactant | triethylamine | 0.77 mmol, 0.107 ml, 78 mg | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-propionyl chloride | 0.67 mmol, 0.082 ml, 80 mg | CC(C(=O)Cl)(C)C | C5H9ClO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-propionic acid 3-methoxy-9-oxo-8-(2,4,6-trimethyl-phenyl)-2,3,4,5-tetrahydro-1H,9H-pyrazolo[1,2-a][1,2,5]triazepin-7-yl ester | CON1CCN2N(CC1)C(C(=C2OC(C(C)(C)C)=O)C2=C(C=C(C=C2C)C)C)=O | C22H31N3O4
